US07696215B2
A solution of N-Cyclopropyl-4-methyl-3-[4-oxo-6-[(3S)-pyrrolidin-3-yloxy]quinazolin-3(4H)-yl]benzamide (0.5 g) in 48% hydrobromic acid (5 ml) was heated to 130° C. for 30 minutes in a microwave (Personal Chemistry Emrys Optimizer with 300 W magnetron). The reaction mixture was diluted with ethyl acetate and extracted with water. The aqueous extracts were combined and purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to give 4-methyl-3-[4-oxo-6-[(3S)-pyrrolidin-3-yloxy]quinazolin-3(4H)-yl]benzoic acid as a solid (224 mg); NMR Spectrum: (DMSOd6) 2.13 (m, 7H), 3.30 (m, 2H), 4.89 (s, 1H), 5.26 (s, 1H), 7.45 (m, 2H), 7.58 (t, 1H), 7.70 (d, 1H), 7.80 (s, 1H), 7.92 (m, 1H), 8.15 (s, 1H); Mass Spectrum: M+H+ 366.

reactant | N-Cyclopropyl-4-methyl-3-[4-oxo-6-[(3S)-pyrrolidin-3-yloxy]quinazolin-3(4H)-yl]benzamide | 0.5 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)O[C@@H]1CNCC1)=O | C23H24N4O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrobromic acid | 5 ml | Br | BrH
product | 4-methyl-3-[4-oxo-6-[(3S)-pyrrolidin-3-yloxy]quinazolin-3(4H)-yl]benzoic acid | 224 mg | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)O[C@@H]1CNCC1 | C20H19N3O4
